US06867198B2
3-(6-Fluoro-1H-indol-3-yl)-4-(5-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-pyrrolidine-2,5-dione
Beginning with (5-(tert-butyldimethylsilyloxymethyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester and (6-fluoro-1H-indol-3-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | (5-(tert-butyldimethylsilyloxymethyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2CC(CC3=CC=CC1=C23)CO[Si](C)(C)C(C)(C)C)=O | C21H29NO4Si
reactant | (6-fluoro-1H-indol-3-yl)acetamide | FC1=CC=C2C(=CNC2=C1)CC(=O)N | C10H9FN2O
product | 3-(6-Fluoro-1H-indol-3-yl)-4-(5-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-pyrrolidine-2,5-dione | FC1=CC=C2C(=CNC2=C1)C1C(NC(C1C1=CN2CC(CC3=CC=CC1=C23)CO)=O)=O | C24H20FN3O3
